US08357706B2
(S)-tert-butyl (4-(5-(3,4-diethoxybenzyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)(2-(dimethylamino)-2-oxoethyl)carbamate INT-64 was prepared using General Procedure 2, analogously to INT-63, from (S)-tert-butyl (2-(dimethylamino)-2-oxoethyl)(4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-yl)carbamate INT-62 and 2-(3,4-diethoxyphenyl)acetic acid.

reactant | (S)-tert-butyl (2-(dimethylamino)-2-oxoethyl)(4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-yl)carbamate | CN(C(CN(C(OC(C)(C)C)=O)[C@H]1CCC2=C(C=CC=C12)C(NO)=N)=O)C | C19H28N4O4
reactant | 2-(3,4-diethoxyphenyl)acetic acid | C(C)OC=1C=C(C=CC1OCC)CC(=O)O | C12H16O4
product | (S)-tert-butyl (4-(5-(3,4-diethoxybenzyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)(2-(dimethylamino)-2-oxoethyl)carbamate | C(C)OC=1C=C(CC2=NC(=NO2)C2=C3CC[C@@H](C3=CC=C2)N(C(OC(C)(C)C)=O)CC(=O)N(C)C)C=CC1OCC | C31H40N4O6
